US04925846
A mixture of 4.30 g (0.017 mol) of 6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-thiocarboxamide and 3.18 g (0.0344 mol; 2 eq) of chloroacetone in 300 ml of ethanol was heated under reflux. After 5 hours, 3.18 g of more chloroacetone were added. After 29 hours, the solvent was evaporated, and the residue was dissolved in 2000 ml of water. The solution was made alkaline with concentrated ammonia and was extracted 3 times with chloroform. The chloroform extracts were dried over MgSO4, filtered and evaporated to dryness. The residue was purified by flash chromatography using chloroform as eluent and the resulting solid was recrystallized from ethyl acetate to obtain 3.37 g (68%) of 6-ethyl-7-methoxy-5-methyl-2-(4-methylthiazol-2-yl)-imidazo[1,2-a]pyrimidine as a buff powder melting at 184°-186° C.

reactant | 6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-thiocarboxamide | 0.017 mol, 4.30 g | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(N)=S)OC | C11H14N4OS
reactant | chloroacetone | 0.0344 mol, 3.18 g, 2 eq | ClCC(C)=O | C3H5ClO
reactant | chloroacetone | 3.18 g | ClCC(C)=O | C3H5ClO
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-ethyl-7-methoxy-5-methyl-2-(4-methylthiazol-2-yl)-imidazo[1,2-a]pyrimidine | 3.37 g, 68% | C(C)C=1C(=NC=2N(C1C)C=C(N2)C=2SC=C(N2)C)OC | C14H16N4OS
